US07705155B2
Synthesis of N-isopropyl-2-methoxy-isonicotinamide
To a stirred solution of 19.44 g 2-chloro-N-isopropyl-isonicotinamide (97.86 mmol) as obtainable from example 12, in 165 mL methanol were added 27.82 g NaOMe (489.3 mmol, 5.0 eq) in four equal portions over 60 min. The solution was then heated to 80° C. and the reaction was monitored by HPLC. After 23 h (<2% area starting material 2-chloro-N-isopropyl-isonicotinamide), the mixture was cooled to room temperature and quenched by addition of 200 mL saturated aqueous NH4Cl. The product was extracted three times with 150 mL, in total 450 mL dichloromethane. The combined organic phases were dried over 40 g Na2SO4 (30 min) and filtered. The filter cake was washed with 80 mL dichloromethane. After removal of solvent in a rotary evaporator (40° C., 22 mbar), the crude product (15.856 g, 83% w/w, HPLC purity 93.7% area) was obtained as a white solid.

reactant | 2-chloro-N-isopropyl-isonicotinamide | 97.86 mmol, 19.44 g | ClC=1C=C(C(=O)NC(C)C)C=CN1 | C9H11ClN2O
reactant | NaOMe | 489.3 mmol, 27.82 g, 5.0 eq | C[O-].[Na+]
solvent | methanol | 165 mL | CO | CH4O
product | N-isopropyl-2-methoxy-isonicotinamide | 15.856 g | C(C)(C)NC(C1=CC(=NC=C1)OC)=O | C10H14N2O2
